US08703763B2
b) (rac)-3-Benzyl-6-oxa-3-aza-bicyclo[3.2.1]octan-8-one oxime
A mixture of (rac)-3-benzyl-6-oxa-3-aza-bicyclo[3.2.1]octan-8-one (500 mg, 2.30 mmol), hydroxylamine hydrochloride (224 mg, 3.22 mmol) and pyridine (0.32 mL) in ethanol (5 mL) was heated to 100° C. for 2 hours. The reaction mixture was concentrated under reduced pressure. 2.5 N Aqueous sodium hydroxide solution (10 mL) was added to the residue. The resulting solution was extracted with ethyl acetate (50 mL), washed with water and brine, dried over anhydrous sodium sulfate, filtered and concentrated under reduced pressure. The crude product was purified by column chromatography on silica gel with 5-10% ethyl acetate/hexane mixture as eluent to afford the title compound as a brown sticky liquid (220 mg, 43%).

reactant | (rac)-3-benzyl-6-oxa-3-aza-bicyclo[3.2.1]octan-8-one | 2.30 mmol, 500 mg | C(C1=CC=CC=C1)N1CC2COC(C1)C2=O | C13H15NO2
reactant | hydroxylamine hydrochloride | 3.22 mmol, 224 mg | Cl.NO
reactant | pyridine | 0.32 mL | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 5 mL | C(C)O | C2H6O
product | (rac)-3-Benzyl-6-oxa-3-aza-bicyclo[3.2.1]octan-8-one oxime | 220 mg, 43% | C(C1=CC=CC=C1)N1CC2COC(C1)C2=NO | C13H16N2O2
